US08003651B2
To a solution of (R)-5-methyl-4-((S)-2-methylpiperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride (32 mg, 0.14 mmol) in DCM (5 mL) were added triethylamine (1 mL), (R)-2-(tert-butoxycarbonylamino)-3-(4-chloro-3-fluorophenyl)propanoic acid (44 mg, 0.14 mmol) and HBTU (52 mg, 0.14 mmol). The mixture was stirred at room temperature for 1 hour. The solvent was removed and the residue was purified by silica gel chromatography, eluting with ethyl acetate to afford tert-butyl (R)-3-(4-chloro-3-fluorophenyl)-1-((S)-3-methyl-4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate (55 mg, 82%). 1H NMR (CDCl3, 400 MHz) δ 8.46 (s, 1H), 7.31-6.85 (m, 3H), 5.45-5.18 (m, 1H), 4.90-4.60 (m, 2H), 4.50-4.30 (m, 1H), 4.20-4.00 (m, 1H), 3.90-3.60 (m, 2H), 3.40 (m, 1H), 3.20-2.70 (m, 2H), 2.24 (m, 1H), 1.70 (m, 1H), 1.42 (s, 9H), 1.30-0.98 (m, 6H). MS (APCI+) [M+H] +532.

reactant | (R)-5-methyl-4-((S)-2-methylpiperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride | 0.14 mmol, 32 mg | Cl.Cl.C[C@@H]1CCC=2N=CN=C(C21)N2[C@H](CNCC2)C
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | (R)-2-(tert-butoxycarbonylamino)-3-(4-chloro-3-fluorophenyl)propanoic acid | 0.14 mmol, 44 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC(=C(C=C1)Cl)F | C14H17ClFNO4
reactant | HBTU | 0.14 mmol, 52 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (R)-3-(4-chloro-3-fluorophenyl)-1-((S)-3-methyl-4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate | 55 mg, 82% | ClC1=C(C=C(C=C1)C[C@H](C(=O)N1C[C@@H](N(CC1)C=1C2=C(N=CN1)CC[C@H]2C)C)NC(OC(C)(C)C)=O)F | C27H35ClFN5O3
